US07470664B2
(2S)-Cyclohexyl({[(2,2-dimethylhex-5-en-1-yl)oxy]carbonyl}amino)acetic acid was prepared according to the procedure for 3-methyl-N-[(pent-4-enyloxy)carbonyl]-L-valine using (2S)-amino(cyclohexyl)acetic acid and 2,2-dimethylhex-5-en-1-ol. LRMS (ESI) m/z 312.3 [(M+H)+; calcd for C17H30NO4: 312.2].

reactant | 3-methyl-N-[(pent-4-enyloxy)carbonyl]-L-valine | CC([C@H](NC(=O)OCCCC=C)C(=O)O)(C)C | C12H21NO4
reactant | (2S)-amino(cyclohexyl)acetic acid | N[C@H](C(=O)O)C1CCCCC1 | C8H15NO2
reactant | 2,2-dimethylhex-5-en-1-ol | CC(CO)(CCC=C)C | C8H16O
product | (2S)-Cyclohexyl({[(2,2-dimethylhex-5-en-1-yl)oxy]carbonyl}amino)acetic acid | C1(CCCCC1)[C@@H](C(=O)O)NC(=O)OCC(CCC=C)(C)C | C17H29NO4
